US05866684
A solution of 230 mg (0.223 mmol) of N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester in 10 ml of dimethylformamidewas hydrogenated over 25 mg of 10% palladium/carbon for 3 hours. The catalyst was removed by filtration, the filtrate was evaporated and the residue was triturated with diethyl ether to give 206 mg of N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine as a white solid; MS: m/e 944 [M+H].

reactant | N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester | 0.223 mmol, 230 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)CCC(OC(C)(C)C)=O)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC1CCCC1)=O | C56H83N5O13
catalyst | palladium/carbon | 25 mg | [Pd] | Pd
product | N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-3-cyclopentyl-L-alanine | 206 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC1CCCC1)C(=O)O | C49H77N5O13
